US05180733
Step 3: 1-(1-Carbomethoxy-1,2,3,4-tetrahydro-2-naphthyl)-2-(3-nitrophenyl)-1-nitroethane
To a mixture of 2 g (10.6 mmol) of 1-carbomethoxy-3,4-dihydronaphthalene, from Step 1 of Example 46, and 2.08 g (10.6 mmol) of 2-(3-nitrophenyl)-1-nitroethane, from Step 2, in 1 mL of acetonitrile was added 0.2 mL of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU). The reaction mixture was stirred at ambient temperature for 0.5 h and then diluted with ethyl acetate. The reaction mixture was washed with 2N aqueous hydrochloric acid solution. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give 3.96 g (97% yield) of the title compound as a mixture of diastereomers which was taken on without purification to the next step; MS DCI-NH3M/Z: 402 (M+NH4)+ ; 1H NMR (CDCl3) δ1.52-1.86 (1H, m), 2.1-2.35 (1H, m), 2.42-2.65 (1H, m), 2.78- 3.15 (2H, m), 3.2-3.33 (1H, m), 3.38-3.55 (1H, m). 3.78-3.81 (3H, s), 3.91-4.18 (1H, m), 4.68-4.88 (1H, m), 7.12-7.42 (4H, m), 7.48-7.58 (2H, m), 8.01-8.18 (2H, m).

reactant | 1-carbomethoxy-3,4-dihydronaphthalene | 10.6 mmol, 2 g | C(=O)(OC)C1=CCCC2=CC=CC=C12 | C12H12O2
reactant | 2-(3-nitrophenyl)-1-nitroethane | 10.6 mmol, 2.08 g | [N+](=O)([O-])C=1C=C(C=CC1)CC[N+](=O)[O-] | C8H8N2O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-Carbomethoxy-1,2,3,4-tetrahydro-2-naphthyl)-2-(3-nitrophenyl)-1-nitroethane | 3.96 g, 97% yield | C(=O)(OC)C1C(CCC2=CC=CC=C12)C(CC1=CC(=CC=C1)[N+](=O)[O-])[N+](=O)[O-] | C20H20N2O6
